US05409928
(2) Preparation of 6-ethoxycarbonyl-7-hydroxy-3-[4-(2-phenylpropan-2-yl)phenyl]pyrazolo[1,5-a]pyrimidine
To a suspention of 3-amino-4-[4-(2-phenylpropan-2-yl)phenyl]pyrazole (920 mg) in ethanol (10 ml) was added diethyl ethoxymethylenemalonate (1.34 ml), and the mixture was heated and refluxed for 3 days. To the mixture was added sodium methoxide (540 mg) under ice-cooling, and the mixture was stirred for 1 day. Ethanol was distilled away under reduced pressure, and thereto was added water (50 ml) under ice-cooling. The mixture was adjusted to acid with 10% hydrochloric acid, and the precipitate was separated by filtration, washed with water to give the title compound (1.26 g, 94.6%).

reactant | 3-amino-4-[4-(2-phenylpropan-2-yl)phenyl]pyrazole | 920 mg | NC1=NNC=C1C1=CC=C(C=C1)C(C)(C)C1=CC=CC=C1 | C18H19N3
reactant | diethyl ethoxymethylenemalonate | 1.34 ml | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | sodium methoxide | 540 mg | C[O-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-ethoxycarbonyl-7-hydroxy-3-[4-(2-phenylpropan-2-yl)phenyl]pyrazolo[1,5-a]pyrimidine | 1.26 g, 94.6% | C(C)OC(=O)C=1C=NC=2N(C1O)N=CC2C2=CC=C(C=C2)C(C)(C)C2=CC=CC=C2 | C24H23N3O3
